### PR TITLE
[Merged by Bors] - feat: interplay of posPart, negPart, untop₀, min and max

### PR DESCRIPTION
**Pull request by kebekus**
Add a host of elementary (but somewhat delicate) lemmas on the interplay of posPart, negPart, untop₀, min, and max.

This material is used in [Project VD](https://github.com/kebekus/ProjectVD), which aims to formalize Value Distribution Theory for meromorphic functions on the complex plane. It will be used in follow-up PRs to compare pole- and zero-divisors attached to meromorphic functions on the complex plane, and their behavior under algebraic manipulations of the functions.

---

This PR is a variant of PR #30630, which was closed because of error messages from the CI that the author failed to understand.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Order/Group/PosPart.lean [hunk 1]
```diff
@@ -168,6 +168,9 @@ lemma leOnePart_eq_inv_inf_one (a : α) : a⁻ᵐ = (a ⊓ 1)⁻¹ := by
   rw [← mul_left_inj a⁻ᵐ⁻¹, inf_mul, one_mul, mul_inv_cancel, ← div_eq_mul_inv,
     oneLePart_div_leOnePart, leOnePart_eq_inv_inf_one, inv_inv]
 
+@[to_additive] lemma leOnePart_min (a b : α) : (min a b)⁻ᵐ = max a⁻ᵐ b⁻ᵐ := by
+  simp [leOnePart, inv_inf, sup_sup_distrib_right]
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Group/PosPart.lean:175]: Do `leOnePart_max`, `oneLePart_min`, `oneLePart_max` also hold? If so, can you add them?

File: Mathlib/Algebra/Order/WithTop/Untop0.lean [hunk 2]
```diff
@@ -65,6 +65,13 @@ lemma untopD_add [Add α] {a b : WithTop α} {c : α} (ha : a ≠ ⊤) (hb : b 
 lemma untop₀_add [AddZeroClass α] {a b : WithTop α} (ha : a ≠ ⊤) (hb : b ≠ ⊤) :
     (a + b).untop₀ = a.untop₀ + b.untop₀ := untopD_add ha hb
 
+@[simp]
+lemma untop₀_neg [AddCommGroup α] : ∀ a : WithTop α, (-a).untop₀ = -a.untop₀
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/WithTop/Untop0.lean:69]: For `GroupWithZero`, can you also prove `untop₀_inv`?

File: Mathlib/Algebra/Order/WithTop/Untop0.lean [hunk 3]
```diff
@@ -65,6 +65,13 @@ lemma untopD_add [Add α] {a b : WithTop α} {c : α} (ha : a ≠ ⊤) (hb : b 
...
+  | ⊤ => by simp
+  | (a : α) => by
+    rw [← LinearOrderedAddCommGroup.coe_neg, untop₀_coe]
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/WithTop/Untop0.lean]:
```suggestion
    norm_cast
```
maybe? or possibly even
```suggestion
    rfl
```

File: Mathlib/Algebra/Order/WithTop/Untop0.lean [hunk 4]
```diff
@@ -77,27 +84,58 @@ lemma untop₀_mul [DecidableEq α] [MulZeroClass α] (a b : WithTop α) :
...
   | coe a => simp
 
+theorem le_of_untop₀_le_untop₀ (ha : a ≠ ⊤) (h : a.untop₀ ≤ b.untop₀) : a ≤ b := by
+  lift a to α using ha
+  by_cases hb : b = ⊤
+  · simp_all
+  lift b to α using hb
+  simp_all
+
+@[simp, gcongr] theorem untop₀_le_untop₀_of_le (hb : b ≠ ⊤) (h : a ≤ b) : a.untop₀ ≤ b.untop₀ := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/WithTop/Untop0.lean]:
```suggestion
@[simp, gcongr] theorem untop₀_le_untop₀ (hb : b ≠ ⊤) (h : a ≤ b) : a.untop₀ ≤ b.untop₀ := by
```
is probably enough. Can we also have `untop₀_le_untop₀_iff`?

File: Mathlib/Topology/LocallyFinsupp.lean
Comment (YaelDillies) [inline Mathlib/Topology/LocallyFinsupp.lean:1]: This material looks like it belongs in a completely separate PR now. Mind splitting?

File: Mathlib/Algebra/Order/Group/PosPart.lean (hunk 1 above)
Comment (kebekus) [reply Mathlib/Algebra/Order/Group/PosPart.lean:175]: Done.

File: Mathlib/Algebra/Order/WithTop/Untop0.lean (hunk 3 above)
Comment (kebekus) [reply Mathlib/Algebra/Order/WithTop/Untop0.lean]: Indeed, `rfl` did the job. Thanks.

File: Mathlib/Algebra/Order/WithTop/Untop0.lean [hunk 5]
```diff
@@ -77,27 +82,68 @@ lemma untop₀_mul [DecidableEq α] [MulZeroClass α] (a b : WithTop α) :
...
+
+theorem untop₀_le_untop₀_iff :
+    a.untop₀ ≤ b.untop₀ ↔ (a = ⊤ ∧ 0 ≤ b) ∨ (a ≤ 0 ∧ b = ⊤) ∨ (a ≤ b ∧ a ≠ ⊤ ∧ b ≠ ⊤) := by
+  by_cases ha : a = ⊤
+  · simp_all
+  lift a to α using ha
+  by_cases hb : b = ⊤
+  · simp_all
+  lift b to α using hb
+  simp
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/WithTop/Untop0.lean]: Oh, I was thinking of the much simpler
```suggestion
theorem untop₀_le_untop₀_iff (ha : a ≠ ⊤) (hb : b ≠ ⊤) :
    a.untop₀ ≤ b.untop₀ ↔ a ≤ b := by
  lift a to α using ha
  lift b to α using hb
  simp
```

File: Mathlib/Algebra/Order/WithTop/Untop0.lean (hunk 4 above)
Comment (kebekus) [reply Mathlib/Algebra/Order/WithTop/Untop0.lean]: Done.

File: Mathlib/Algebra/Order/WithTop/Untop0.lean (hunk 2 above)
Comment (kebekus) [reply Mathlib/Algebra/Order/WithTop/Untop0.lean:69]: Unsure. Maybe not. For `GroupWithZero α`, Lean fails to synthesize `Inv (WithTop α)`.

File: Mathlib/Topology/LocallyFinsupp.lean
Comment (kebekus) [reply Mathlib/Topology/LocallyFinsupp.lean:1]: Done.

File: Mathlib/Algebra/Order/WithTop/Untop0.lean (hunk 2 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Order/WithTop/Untop0.lean:69]: Ah right, it should work for `WithZero` instead

Comment (kebekus) [reply Mathlib/Algebra/Order/WithTop/Untop0.lean:69]: Not sure I understand. How would I get `Inv (WithTop α)` then?

Comment (YaelDillies) [reply Mathlib/Algebra/Order/WithTop/Untop0.lean:69]: You shouldn't. I confused with `WithZero`, but it would be nice whether the corresponding `WithZero` lemma exists

Comment (kebekus) [reply Mathlib/Algebra/Order/WithTop/Untop0.lean:69]: Still unsure. What do you want me to do?

Comment (YaelDillies) [reply Mathlib/Algebra/Order/WithTop/Untop0.lean:69]: Nothing, sorry, I failed to resolve the conversation

File: Mathlib/Algebra/Order/Group/PosPart.lean
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Group/PosPart.lean:1]: It looks like all these lemmas should be simp

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

**Comment by ocfnash** [comment]
Thanks!

(and thanks also to Yaël for the review).

bors d+

**Comment by kebekus** [comment]
@ocfnash @YaelDillies Thanks!

bors r+

File: Mathlib/Algebra/Order/Group/PosPart.lean
Comment (kebekus) [reply Mathlib/Algebra/Order/Group/PosPart.lean:1]: I am unsure. I thought about that, but I am not really sure if they have one side that is `obviously easier` and `more preferable` than the other side. Please disagree, and I'll be more than glad to add `simp`s in a follow-up PR.
